US04537969
The dihydrochloride salt of 4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-S2-yl)ethyl]-piperidine (1.6 g, 5.8 mM) in methanol (12 ml) which contained MeONa (12 mM) and dimethylformamide dimethyl acetal (20 ml) was heated at 90° C. for 8 hrs. The excess of dimethylformamide dimethylacetal was removed in vacuo to give the 4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl] 1-piperidinecarboxaldehyde dimethylacetal. To the mixture of 6-aminopenicillanic acid (1.1 g, 5 mM) and diisopropylethylamine (0.96 ml) in 20 ml dry CHCl3 was added the solution (CHCl3 8 ml: MeOH 1 ml) of the above piperidine-carboxaldehyde dimetylacetal at 0° C. The reaction was stirred at 0° C. for 1 hr and then at room temperature for 3 hrs. The solvent was then removed, and water added (30 ml). The aqueous solution, washed with ethylacetate, was acidified to pH 3 with dilute aqueous HCl and purified on Sephadex LH 20 column to yield [2S-(2alpha,5alpha,6beta)]-6-[[[4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl]-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabocyclo[3.2.0]heptane-2-carboxylic acid hydrochloride (0.85 g, 38% yield)

reactant | 6-aminopenicillanic acid | 5 mM, 1.1 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | diisopropylethylamine | 0.96 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperidine-carboxaldehyde dimetylacetal | 8 ml | COC(N1CCCCC1)OC | C8H17NO2
reactant | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | heptane-2-carboxylic acid hydrochloride | 0.85 g, 38% yield | Cl.CC(CCCCC)C(=O)O | InChI=1S/C8H16O2.ClH/c1-3-4-5-6-7(2)8(9)10;/h7H,3-6H2,1-2H3,(H,9,10);1H
